US07642264B2
5-{3-[4-(4-Chloro-phenyl)-6-methyl-pyridin-2-yl]-phenyl}-pyrimidin-2-ylamine
The title compound was prepared 2-(3-bromo-phenyl)-4-(4-chloro-phenyl)-6-methylpyridine (example E.32) (0.075 g, 0.20 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (0.051 g, 0.2 mmol) according to the general procedure VI. Obtained as a white solid (0.035 g, 45%). MS (ISP) 373.2 [(M+H)+] and 375 [(M+2+H)+]; mp 197-199° C.

reactant | 2-(3-bromo-phenyl)-4-(4-chloro-phenyl)-6-methylpyridine | 0.20 mmol, 0.075 g | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)Cl)C | C18H13BrClN
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 0.2 mmol, 0.051 g | NC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C10H16BN3O2
product | 5-{3-[4-(4-Chloro-phenyl)-6-methyl-pyridin-2-yl]-phenyl}-pyrimidin-2-ylamine | ClC1=CC=C(C=C1)C1=CC(=NC(=C1)C)C=1C=C(C=CC1)C=1C=NC(=NC1)N | C22H17ClN4
